Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Singulair / Penicillins
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman, currently 9 weeks gestation, history 
of sinus tachycardia and chest pain who p/w 1 week of 
progressively worsening shortness of breath, cough, and chest 
pain.

Patient reports that her current illness started about 3 weeks 
ago. She has had ongoing cough and chest pain now for about a 
month. The cough has been intermittently productive and she 
thinks it is not "productive enough" to account for the 
congestion that she feels in her chest. Last week, she had 2 
episodes of hemoptysis. The first one was on ___ and was 
blood-tinged. The second one was on ___ and it was dime 
sized and fairly bright red in color. Regarding her chest pain, 
it is located in various locations, sometimes in her back, in 
her front, on the sides. It is not associated with exertion or 
cough as it is often occurs without any provocation and often 
times at rest as well. It occurs daily and lasts for 
approximately an hour at a time, though sometimes shorter. She 
also endorses some dyspnea, both at rest and with exertion, 
although this has improved somewhat over the past few days. She 
does endorse a few pounds of weight loss this past week, but 
says she has been very nauseated and has been vomiting nearly 
daily and is unable to keep up her intake. 

Patient says she has been sick now for over a year and has seen 
multiple doctors regarding ___ and discomforts and has 
a mild distrust of doctors as ___ have dismissed her as anxious 
or "crazy." She had a Mirena IUD about ___ years ago and believes 
that she got silicone poisoning from it. Since about a year ago, 
she has had palpitations. She saw a cardiologist at ___ and has 
had a holter monitor and was diagnosed with sinus tachycardia 
and was not referred for any further diagnostic workup or 
treatment. She has a long history of chest pain of unclear 
etiology that is again, migratory and intermittent. 

In the ___, initial vitals were 96.5 108 143/63 18 99% RA. Labs 
significant for wbc 11.6 with 72.8% neutrophils, negative 
troponin, flat BNP, and negative d-dimer. CXR negative for acute 
cardiopulmonary process. Patient was given nothing and admitted 
out of concern for TB

On the floor, patient reports feeling frustrated at being 
admitted for TB as she doesn't believe she has TB, though admits 
that she's scared of coughing up blood. She has not had any 
recurrence of hemoptysis since ___. She has not been taking 
any medications as she is scared it will affect her baby. She 
has an upcoming appointment on ___ with her ___. 

ROS: positive per HPI, otherwise negative
 
Past Medical History:
sinus tachycardia
chest pain
 
Social History:
___
Family History:
No family history of TB. Both parents are alive and healthy and 
live in ___. Her paternal aunt had an MI at age ___, paternal 
grandfather passed from CAD at age ___ and had a CABG.
 
Physical Exam:
vitals: 97.8 104/61 74 18 97 RA 
General: well appearing young woman, no acute distress
HEENT: PERRL, EOMI, oropharynx is clear, neck is supple
CV: r/r/r, no m/r/g
Resp: CTA bilaterally
Abd: soft, nontender, nondistended, normoactive bowel sounds
Ext: wwp, no edema
Neuro: alert and oriented, no facial droop
Psych: mood appropriate
 
Pertinent Results:
Admission labs:
___ 11:20PM BLOOD WBC-11.6* RBC-4.49 Hgb-13.8 Hct-38.7 
MCV-86 MCH-30.7 MCHC-35.7 RDW-12.7 RDWSD-39.4 Plt ___
___ 11:20PM BLOOD Neuts-72.8* ___ Monos-6.0 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-8.48* AbsLymp-2.36 
AbsMono-0.70 AbsEos-0.02* AbsBaso-0.03
___ 11:20PM BLOOD Glucose-86 UreaN-6 Creat-0.6 Na-139 K-3.6 
Cl-103 HCO3-22 AnGap-18
___ 11:20PM BLOOD cTropnT-<0.01
___ 11:20PM BLOOD proBNP-99
___ 11:20PM BLOOD D-Dimer-412

Imaging:
CXR ___
IMPRESSION:  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo woman, 9 weeks pregnant, who presents with 
ongoing cough and chest pain.

# cough 
# hemoptysis
# bronchitis
Patient's ongoing cough and 2 episodes of hemoptysis are most 
likely due to viral illness in setting of ongoing smoking. 
D-dimer was within normal limits and CXR without any infiltrates 
or acute process. She has a history of "homelessness" but has 
never lived in shelters or on the street and has no known 
history of TB exposure or other risk factors. Her case was 
discussed with infectious disease, who agreed that she did not 
need an inpatient work-up for active TB. She should have a 
quantiferon gold as outpatient, which was ordered, and follow-up 
with her outpatient providers for further observation and care. 
She was provided with a prescription for guaifenesin for 
symptomatic relief. 

# chest pain
Patient has known history of chest pain without clear etiology 
but states this pain is different. Could consider disorders 
related to pregnancy, but no evidence of ischemia on EKG and 
troponin is negative. 

# pregnancy: Patient will f/u with ___. She was provided with 
a prescription for Zofran as needed for nausea. 

# tobacco abuse: Continued to encourage smoking cessation. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  guaiFENesin 200 mg oral Q6H:PRN cough 
RX *guaifenesin 200 mg 1 tablet(s) by mouth Q6H:prn Disp #*30 
Tablet Refills:*0 
2.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron [Zofran ODT] 4 mg 1 tablet(s) by mouth Q8H:prn 
Disp #*15 Tablet Refills:*0 
3.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bronchitis
chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your stay at ___. 
You were admitted out of concern for TB. However, upon 
discussion with ID, we think your risk of TB is exceedingly low. 
Your lab tests were within normal limits and your chest x-ray 
was clear. We believe your cough and bloody sputum are more 
likely due to a viral infection and should clear up with time. 
We continue to encourage you to quit  smoking.

You should have a TB blood test done on ___. If you 
develop any high fevers or increasingly bloody sputum, please 
see your PCP. Please follow-up with your PCP and your ___ as 
previously scheduled.

Your ___ Team
 
Followup Instructions:
___